US06951879B2
In analogy to example 2.1, 3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-ol and 1,4-dibromobutane were converted to yield 6-(4-Bromo-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole as light yellow solid, MS: 429 (M, 1Br).

reactant | 3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-ol | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O)(F)F | C14H8F3NOS
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 6-(4-Bromo-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C18H15BrF3NOS
